US06800651B2
N-(3-(1-Phenylvinyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
To a suspension of methyltriphenylphosphonium bromide (0.269 g, 0.752) in 3 mL THF at 0° C. was added KHMDS (0.5 M in toluene, 1.5 mL, 0.752 mmol). The mixture was warmed to ambient temperature for 1 h and N-(3-benzoylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine (0.143 g, 0.376 mmol) as a solution in 3 mL THF was added via cannula. After 3 h the mixture was poured into saturated NaHCO3 solution and Extracted with EtOAc, dried over MgSO4, filtered and concentrated. The residue was chromatographed with 10:1 to 5:1 DCM/EtOAc to give the title compound as a clear oil. 1H NMR: 8.50 (dd,J=4.9, 1.5 Hz, 1H), 8.35 (d,J=2.0 Hz, 1H), 7.70 (dt,J=7.8, 2.0 Hz, 1H), 7.37-7.19 (m,9H), 7.14 (m,1H), 5.48 (d,J=1.0 Hz, 1H), 5.39 (d,J=1.0 Hz, 1H), 4.85 (s,2H), 3.09 (q,J=7.3 Hz, 2H), 1.41 (t,J=7.3 Hz, 3H). MS calcd. 378.1; MS (M+1) 379.1.

reactant | KHMDS | 0.752 mmol, 0.5 M, 1.5 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | N-(3-benzoylphenyl)-N-(ethylsulfonyl)pyrid-3-ylmethylamine | 0.376 mmol, 0.143 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C21H20N2O3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | methyltriphenylphosphonium bromide | 0.269 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(3-(1-Phenylvinyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | C1(=CC=CC=C1)C(=C)C=1C=C(C=CC1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C22H22N2O2S
